US04847289
Step B: Preparation of 2-(4-Methoxyphenylthio)thiophene-3-carboxaldehyde
To a stirred solution of 3-bromo-2-(4-methoxyphenylthio)thiophene (12.77 g, 0.042 mol) in anhydrous ether (100 ml) cooled to -78° C. was added dropwise over 1 hour. 1.55M n-butyl lithium in hexane (28.7 ml, 0.045 mol) under nitrogen atmosphere. The solution was stirred at -78° C. for another hour and then the temperature was allowed to rise to -30° C. over 1/4 hour. The temperature was lowered to -60° C. and dry dimethylformamide (6.2 g, 0.085 mol) was added over 5 minutes. The cooling bath was removed and the temperature was allowed to rise to 15° C. over 3/4 hour. The mixture was cooled to -20° C. and acidified by slowly adding 3NHCl (40 ml). The ether layer was separated and washed with saturated NaCl, saturated NaHCO3 and again with saturated NaCl. The solution was dried, filtered and concentrated in vacuo. A quantitative recovery of an amber oil which solidified to a waxy yellow solid was obtained. The product recrystallized from n-butyl chloride-hexane, mp 58°-60° C. The structure and purity were confirmed by NMR, mass spectral analysis and elemental analyses.

reactant | 3-bromo-2-(4-methoxyphenylthio)thiophene | 0.042 mol, 12.77 g | BrC1=C(SC=C1)SC1=CC=C(C=C1)OC | C11H9BrOS2
reactant | n-butyl lithium | 1.55M | C(CCC)[Li]
reactant | hexane | 0.045 mol, 28.7 ml | CCCCCC | C6H14
reactant | dimethylformamide | 0.085 mol, 6.2 g | CN(C=O)C | C3H7NO
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(4-Methoxyphenylthio)thiophene-3-carboxaldehyde | COC1=CC=C(C=C1)SC=1SC=CC1C=O | C12H10O2S2
